US09290517B2
(3R,3aR,6R,6aR)-6-[[5-(4-bromophenyl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
A flask was charged with (3R,3aR,6R,6aR)-6-[5-(4-bromophenyl)-6-chloro-1-(2-trimethylsilylethoxy-methyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (270.1 mg, 0.463 mmol), formic acid (1.5 ml, 39.1 mmol), and saturated aqueous KHSO4 (0.15 ml). The reaction mixture was stirred at room temperature for 16 h, then at 40° C. for 23 h. The reaction mixture was cooled in an ice bath. The pH of the reaction mixture was adjusted to 14 through the addition of 5 N aqueous NaOH (8.0 ml, 40 mmol). The reaction mixture was allowed to warm to room temperature. After 10 min, the pH of the reaction mixture was adjusted to 8 through the addition of 2N aqueous HCl. The reaction mixture was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc. The organic layers were combined, washed with brine, dried over Na2SO4, filtered, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a yellow solid, which was used without further purification. LC-MS: calculated for C18H15BrClN3O4 450.99, 452.99 observed m/e: 452.05, 454.02 (M+H)+ (Rt 1.15/2 min).

reactant | (3R,3aR,6R,6aR)-6-[5-(4-bromophenyl)-6-chloro-1-(2-trimethylsilylethoxy-methyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.463 mmol, 270.1 mg | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)Cl | C24H29BrClN3O5Si
reactant | formic acid | 39.1 mmol, 1.5 ml | C(=O)O | CH2O2
reactant | KHSO4 | 0.15 ml | OS(=O)(=O)[O-].[K+]
reactant | NaOH | 40 mmol, 5 N, 8.0 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
product | (3R,3aR,6R,6aR)-6-[[5-(4-bromophenyl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)Cl | C18H15BrClN3O4
